US07635701B2
2-(3-Chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid methyl-(tetrahydro-pyran-4-ylmethyl)-amide
In a manner similar to Reference Example 1 (c) 2-(3-chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (50 mg) and N-methyl-N-(tetrahydro-pyran-4-yl methyl)amine hydrochloride (39 mg) afforded, after Biotage chromatography over silica gel, eluting with 1% MeOH/CH2Cl2, the title compound (33 mg).

reactant | 2-(3-chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid | 50 mg | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H7ClF3N3O2
reactant | N-methyl-N-(tetrahydro-pyran-4-yl methyl)amine hydrochloride | 39 mg | Cl.CNCC1CCOCC1
product | 2-(3-Chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid methyl-(tetrahydro-pyran-4-ylmethyl)-amide | CN(C(=O)C=1C(=NC(=NC1)NC1=CC(=CC=C1)Cl)C(F)(F)F)CC1CCOCC1 | C19H20ClF3N4O2
